US07323455B2
5-(5-Methyl-5-thien-3-yl-2-thioxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-2-carbonitrile
Prepared from 5-[5-methyl-2-oxo-5-(3-thienyl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-2-carbonitrile and Lawesson's reagent generally according to example 10. 1H NMR (DMSO-d6): δ 12.67 (s, 1H), 12.01 (s, 1H), 7.71-7.74 (m, 2H), 7.54 (dd, J=5.08, 2.99 Hz, 1H), 7.41 (d, J=9.2 Hz, 1H), 7.2 (dd, J=2.87, 1.3 Hz, 1H), 7.05 (dd, J=5.04, 1.31 Hz, 1H), 7.00 (dd, J=3.84, 2.1 Hz, 1H), 6.76 (dd, J=3.79, 2.51 Hz, 1H), 4.4 (d, J=15.34 Hz, 1H), 4.27 (d, J=15.33 Hz, 1H), 1.98 (s, 3H); MS (ESI) m/z 366 ([M+H]+); MS (ESI) m/z 364 ([M−H]−). Anal. calcd for C19H15N3OS2: C, 62.44; H, 4.14; N, 11.5. Found: C, 61.9; H, 4.14; N, 11.27.

reactant | 5-[5-methyl-2-oxo-5-(3-thienyl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-2-carbonitrile | CC1(OCC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=O)C2=CSC=C2 | C19H15N3O2S
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 5-(5-Methyl-5-thien-3-yl-2-thioxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-2-carbonitrile | CC1(OCC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=S)C2=CSC=C2 | C19H15N3OS2
